US08013156B2
1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine, dihydrochloride salt (2.13 g, 6.1 mmol), dichloromethane (40 mL), and triethylamine (2.5 mL, 17.9 mmol) were combined and cooled in an icebath. 1-Isocyanato-3,5-bis-trifluoromethyl-benzene (1.89 g, 7.4 mmol) in dichloromethane (10 mL) was added dropwise and the resulting mixture stirred overnight at room temperature. The reaction mixture was diluted with EtOAc and washed with sat'd NaHCO3 (3×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo. The crude product was purified by column chromatography (1:1 hexanes:EtOAc, followed by 1:3 hexanes:EtOAc) to give 2.6 g (80%) of 4-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide as a white solid after lyophilization from: H2O—AcCN. 1H NMR (CDCl3) 8.62 (d, 2H), 7.84 (s, 2H), 7.50 (s, 1H), 7.31 (d, 2H), 7.06 (s, 1H), 5.49 (s, 2H), 3.68-3.60 (m, 8H) ppm. LC-MS (MH+)=533.

reactant | 1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine, dihydrochloride salt | 6.1 mmol, 2.13 g | Cl.Cl.N1=CC=C(C=C1)COC=1C(=NSN1)N1CCNCC1
reactant | triethylamine | 17.9 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Isocyanato-3,5-bis-trifluoromethyl-benzene | 7.4 mmol, 1.89 g | N(=C=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H3F6NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine-1-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide | 2.6 g, 80% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=NSN=C1OCC1=CC=NC=C1)(F)F | C21H18F6N6O2S
